US07208561B2
4-benzylthiobutyl β-D-glucopyranoside was synthesized by the following reactions from β-D-glucopyranose. Thus, acetyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside was prepared by exhaustive acetylation of the hydroxyl groups in β-D-glucopyranose by the action of sodium acetate in acetic anhydride. The acetyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside was subsequently reacted with 3-buten-1-ol under catalysis by boron trifluoride diethyl etherate to give butenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside. The butenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside was mixed with benzyl thiol in dioxane and AIBN was added as radical initiator; reaction then gave 4-benzylthiobutyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside. Deacetylation of the 4-benzylthiobutyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside by reaction with sodium methoxide in methanol gave 4-benzylthiobutyl β-D-glucopyranoside:

reactant | butenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](OC=CCC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C18H26O10
reactant | benzyl thiol | C(C1=CC=CC=C1)S | C7H8S
reactant | 4-benzylthiobutyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](OCCCCSCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C25H34O10S
reactant | sodium methoxide | C[O-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | methanol | CO | CH4O
product | 4-benzylthiobutyl β-D-glucopyranoside | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCCCSCC1=CC=CC=C1 | C17H26O6S
